US07491716B2
(Furo[3,2-c]pyridin-7-yl)methanol
Add Borane (1.0 M in tetrahydrofuran, 0.61 mL, 0.61 mmol) to a solution of furo[3,2-c]pyridine-7-carboxylic acid (0.100 g, 0.61 mmol) in tetrahydrofuran (2 mL)and stir for 1 hour. Add additional borane (0.61 mL) stir for 30 minutes, add additional borane (0.61 ml), quench with 1N HCl (10 mL)and stir for 15 minutes. Add aqueous ammonium hydroxide (28-30%, 3 mL), extract with diethyl ether, dry over magnesium sulfate, filter and concentrate to give the title compound as a white solid.

reactant | Borane | 0.61 mmol, 1.0 M, 0.61 mL | B | BH3
reactant | furo[3,2-c]pyridine-7-carboxylic acid | 0.61 mmol, 0.100 g | O1C=CC=2C=NC=C(C21)C(=O)O | C8H5NO3
reactant | borane | 0.61 mL | B | BH3
reactant | borane | 0.61 ml | B | BH3
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (Furo[3,2-c]pyridin-7-yl)methanol | O1C=CC=2C=NC=C(C21)CO | C8H7NO2
